US07671043B2
8B: cis-3-({4-[5-(4-Isobutylphenyl)-1,3,4-oxadiazol-2-yl]benzyl}amino)cyclobutanecarboxylic acid hydrochloride
A solution of ethyl cis-3-({4-[5-(4-isobutylphenyl)-1,3,4-oxadiazol-2-yl]benzyl}amino)cyclobutane carboxylate (0.300 g, 0.692 mmol), 1N NaOH (6.0 mL), and methanol (5 mL) was heated in a microwave oven at 100° C. for 3 minutes. The reaction mixture was cooled to room temperature and pH was adjusted to 7 with 1N HCl, causing a white solid to precipitate. The reaction mixture was filtered and the solid was washed with water, then treated with 1N HC in ether to give the title compound (0.170 g, 61% yield).

reactant | ethyl cis-3-({4-[5-(4-isobutylphenyl)-1,3,4-oxadiazol-2-yl]benzyl}amino)cyclobutane carboxylate | 0.692 mmol, 0.300 g | C(C(C)C)C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(CN[C@H]2C[C@H](C2)C(=O)OCC)C=C1 | C26H31N3O3
reactant | NaOH | 1N, 6.0 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | cis-3-({4-[5-(4-Isobutylphenyl)-1,3,4-oxadiazol-2-yl]benzyl}amino)cyclobutanecarboxylic acid hydrochloride | 0.170 g, 61% yield | Cl.C(C(C)C)C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(CN[C@H]2C[C@H](C2)C(=O)O)C=C1 | InChI=1S/C24H27N3O3.ClH/c1-15(2)11-16-3-7-18(8-4-16)22-26-27-23(30-22)19-9-5-17(6-10-19)14-25-21-12-20(13-21)24(28)29;/h3-10,15,20-21,25H,11-14H2,1-2H3,(H,28,29);1H/t20-,21+;
